US05955440
Step 1c: 3-(6-Methyl-2-pyridyl)propanal
A solution of DMSO (1.78 g, 22.9 mmol) in dichloromethane (4mL) was added dropwise over 3 min into solution of oxalyl chloride (11.3 mmol) in dichloromethane (6 mL) cooled to -78° C. under nitrogen. The reaction mixture was stirred for 5 min when 3-(6-methyl-2-pyridyl)propanol (1.57 g, 10.4 mmol) in dichloromethane (20 mL) was added over 5 min. The stirring continued for 20 min at -78° C. and triethylamine (8 ml) was added resulting in dark slurry. The cooling bath was removed and after 3 hr, the reaction mixture was quenched with brine followed by dichloromethane extraction (3×). After solvent removal, the dark residue was purified by column chromatography (silica gel, ethyl acetate) yielding a yellow oil (77%). MS (DCI) (M+H)+ at m/z 150.

reactant | DMSO | 22.9 mmol, 1.78 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 11.3 mmol | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(6-methyl-2-pyridyl)propanol | 10.4 mmol, 1.57 g | CC1=CC=CC(=N1)CCCO | C9H13NO
reactant | triethylamine | 8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 4mL | ClCCl | CH2Cl2
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-(6-Methyl-2-pyridyl)propanal | 77% | CC1=CC=CC(=N1)CCC=O | C9H11NO
